US04005084
A mixture of 19 g of 1-[2-(2-thenyl)phenoxy]-2,3-epoxypropane, 65 g of 2-aminoethyl hydrogen sulfate, 40 g of sodium hydroxide, 350 ml of ethanol and 200 ml of water was heated under reflux with stirring for 23 hours. Most of the ethanol was distilled off, and the residue was extracted with two 400 ml portions of ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. To the residue was added a solution of maleic acid in ethanol. The precipitated crystals were purified in the same manner as in Example 1 to give 2-[2-(2-thenyl)phenoxymethyl]morpholine maleate as colorless crystals, melting at 155°-156° C.

reactant | 1-[2-(2-thenyl)phenoxy]-2,3-epoxypropane | 19 g | C1(=CC=CS1)CC1=C(OCC2CO2)C=CC=C1 | C14H14O2S
reactant | 2-aminoethyl hydrogen sulfate | 65 g | S(=O)(=O)(OCCN)O | C2H7NO4S
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 2-[2-(2-thenyl)phenoxymethyl]morpholine maleate | C(\C=C/C(=O)O)(=O)O.C1(=CC=CS1)CC1=C(OCC2CNCCO2)C=CC=C1 | InChI=1S/C16H19NO2S.C4H4O4/c1-2-6-16(19-12-14-11-17-7-8-18-14)13(4-1)10-15-5-3-9-20-15;5-3(6)1-2-4(7)8/h1-6,9,14,17H,7-8,10-12H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
